US07790715B2
c) tert-Butyl 3-(3-amino hydroxybenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]-phenyl}piperidine-1-carboxylate
The solution of 2.16 g of tert-butyl 3-(4-allyloxy-3-nitrobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 15 ml of tetrahydrofuran is admixed with stirring at room temperature with 0.025 g of bis(triphenylphosphine)palladium(II) acetate and 0.075 g of lithium borohydride and stirred at room temperature for 2.5 hours. The reaction mixture is poured onto 1M sodium hydrogencarbonate (50 ml) and extracted with tert-butyl methyl ether (2×50 ml). The organic phases are washed with water (50 ml) and brine (50 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a slightly yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.38 (1:1 EtOAc-heptane); Rt=6.02.

reactant | tert-butyl 3-(4-allyloxy-3-nitrobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 2.16 g | C(C=C)OC1=C(C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C37H46N2O9
reactant | lithium borohydride | 0.075 g | [BH4-].[Li+]
reactant | sodium hydrogencarbonate | 1M, 50 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II) acetate | 0.025 g | CC(=O)[O-].CC(=O)[O-].C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd+2]
product | tert-Butyl 3-(3-amino hydroxybenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]-phenyl}piperidine-1-carboxylate | NC=1C=C(C(OC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)O)C=CC1 | C34H44N2O7
